US06297258B1
4-(3-Chloro-4-fluoroanilino)-7-chloro-6-nitro-3-quinolinecarbonitrile
A stirred mixture of 4,7-dichloro-6-nitro-3-quinolinecarbonitrile (10.7 g, 40 mmol), 3-chloro-4-fluoroaniline (7.0 g, 48 mmol), pyridine hydrochloride (4.6 g, 40 mmol), and 200 ml of 2-propanol was heated to reflux temperature and maintained for 1 h. The 2-propanol was evaporated off, and the residue was stirred in water with potassium bicarbonate (pH˜8). The resulting solid was filtered, washed with water and 5:1 hexane-DCM, and dried. Recrystallization from EtOH gave 11.3 g of yellow solid, mp 259-263°; ms 377.1 (M+H)+.

reactant | 4,7-dichloro-6-nitro-3-quinolinecarbonitrile | 40 mmol, 10.7 g | ClC1=C(C=NC2=CC(=C(C=C12)[N+](=O)[O-])Cl)C#N | C10H3Cl2N3O2
reactant | 3-chloro-4-fluoroaniline | 48 mmol, 7.0 g | ClC=1C=C(N)C=CC1F | C6H5ClFN
reactant | pyridine hydrochloride | 40 mmol, 4.6 g | Cl.N1=CC=CC=C1
solvent | 2-propanol | 200 ml | CC(C)O | C3H8O
product | 4-(3-Chloro-4-fluoroanilino)-7-chloro-6-nitro-3-quinolinecarbonitrile | 11.3 g | ClC=1C=C(NC2=C(C=NC3=CC(=C(C=C23)[N+](=O)[O-])Cl)C#N)C=CC1F | C16H7Cl2FN4O2
